US03994902
A. 1-{4-[2-(Diethylamino)ethoxy]phenyl}-2-phenyl-4(1H)-quinolone
By following a procedure similar to that described in Example 1 and using 49.5 g. 1-(4-hydroxyphenyl)-2-phenyl-4(1H)-quinolone, 10.5 g. sodium methoxide, 500 ml. chlorobenzene, 45 ml. dry methyl alcohol, and 26 g. N-(2-chloroethyl)diethylamine in 80 ml. chlorobenzene there was obtained on evaporation to dryness of the chloroform extract and recrystallization from isopropyl alcohol 32 g. 1-{4-[2-(diethylamino)ethoxy]phenyl}-2-phenyl-4(1H)-quinolone; m.p. 115°-117°C.

reactant | 1-(4-hydroxyphenyl)-2-phenyl-4(1H)-quinolone | OC1=CC=C(C=C1)N1C(=CC(C2=CC=CC=C12)=O)C1=CC=CC=C1 | C21H15NO2
reactant | sodium methoxide | C[O-].[Na+]
reactant | N-(2-chloroethyl)diethylamine | ClCCN(CC)CC | C6H14ClN
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
solvent | methyl alcohol | CO | CH4O
product | 1-{4-[2-(Diethylamino)ethoxy]phenyl}-2-phenyl-4(1H)-quinolone | C(C)N(CCOC1=CC=C(C=C1)N1C(=CC(C2=CC=CC=C12)=O)C1=CC=CC=C1)CC | C27H28N2O2
